US06962935B2
Part A. Preparation of ethyl 3-(3-nitrophenyl)-3-oxopropionate.
To a suspension of anhydrous tin (II) chloride (2.5 g, 13.2 mmol) in 150 mL of methylene chloride was added ethyl diazoacetate (8.3 g, 72.8 mmol). Then 3-nitrobenzaldehyde (10.0 g, 66.2 mmol) was added as a solid in small portions over 30 min. The resulting suspension was stirred at room temperature for 24 h. Additional tin (II) chloride (2.5 g) was added and the reaction was stirred an additional 24 h. The reaction was concentrated in vacuo, diluted with ethyl acetate, washed with water (2 times) and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (elution with 4:1 hexanes/ethyl acetate) to afford 5 g (32%) of the title compound. 1H NMR (CDCl3) (approximately 12:1 mixture of enol and keto tautomers, data for enol only) δ: 12.6 (s, 1H); 8.60 (t, 1H, J=1.8 Hz); 8.3 (m, 1H); 8.1 (m, 1H); 7.62 (t, 1H, J=7.9 Hz) 5.77 (s, 1H); 4.30 (q, 2H, J=7.2 Hz); 1.35 (t, 3H, J=7.2 Hz).

reactant | tin (II) chloride | 13.2 mmol, 2.5 g | [Sn](Cl)Cl
reactant | ethyl diazoacetate | 72.8 mmol, 8.3 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | 3-nitrobenzaldehyde | 66.2 mmol, 10.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | tin (II) chloride | 2.5 g | [Sn](Cl)Cl
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-(3-nitrophenyl)-3-oxopropionate | 5 g, 32% | [N+](=O)([O-])C=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11NO5
